.subckt PLL a b c theta
B1 alpha 0 V=(2/3)*V(a)-(1/3)*V(b)-(1/3)*V(c)
B2 beta 0 V=(sqrt(3)/3)*V(b)-(sqrt(3)/3)*V(c)
B3 theta 0 V=atan2(V(beta),V(alpha))
.ends PLL