.subckt idealsw G pos neg
SW neg pos gate 0 ideal_sw
D1 neg pos ideal_D
B1 gate 0 V=V(G)
.model D D
.model ideal_sw SW(Ron=1m Roff=1Meg Vt=.5 Vh=-.4)
.model ideal_D D(Ron=1m Roff=10Meg)
.ends idealsw